US06759414B2
B. Methyl 1-Boc-1,2,3,6-Tetrahydro-4-pyridinecarboxylate
To a stirred solution of 1-Boc-1,2,3,6-tetrahydro-4-[(trifluoromethyl)sulfonyloxy]pyridine (74.84 g, 226 mmol) in N,N-dimethylformamide (60 mL) was added triethylamine (4.2 mL, 30.2 mmol), palladium acetate (0.100 g, 0.45 mmol), triphenylphosphine (0.235 g, 0.9 mmol), and methanol (24.5 mL) and the solution was placed under an atmosphere of carbon monoxide. After stirring for 48 h, the solvent was removed in vacuo. The residue was chromatographed over silica gel, eluting with 5-10% ethyl acetate in hexane. The product containing fractions were combined and concentrated in vacuo to give 2.35 g (65%) of the title compound as a clear oil.

reactant | 1-Boc-1,2,3,6-tetrahydro-4-[(trifluoromethyl)sulfonyloxy]pyridine | 226 mmol, 74.84 g | C(=O)(OC(C)(C)C)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | triethylamine | 30.2 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 24.5 mL | CO | CH4O
reactant | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.45 mmol, 0.100 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.9 mmol, 0.235 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Methyl 1-Boc-1,2,3,6-Tetrahydro-4-pyridinecarboxylate | 2.35 g, 65% | C(=O)(OC(C)(C)C)N1CCC(=CC1)C(=O)OC | C12H19NO4
